US06008382
1 g of podophyllotoxin I is dissolved in a mixture of 15 ml of CH2Cl2 and 5 ml of ethyl ether. A slight stream of gaseous hydrochloric acid is introduced into the solution for 15 min at -10° C. and then stirring is maintained at this temperature for 1 h. After evaporating the reaction mixture without heating, 0.54 g of D,L-methionine and then 5 ml of methanesulfonic acid are added. After dissolving and stirring for 1 h with return to ordinary temperature, the reaction mixture is plunged into a water-acetone mixture and then BaCO3 is added to neutrality. After extracting with ethyl acetate, separating by settling, drying over Na2SO4, filtering and evaporating under reduced pressure, a residue is obtained which is crystallized from ethyl ether to provide 0.5 g (Yd 52%) of white crystals of 4'-demethylepipodophyllotoxin exhibiting a homogeneous spot by TLC.

reactant | podophyllotoxin | 1 g | COC=1C=C(C=C(C1OC)OC)[C@@H]2C=3C=C4C(=CC3[C@@H]([C@@H]5[C@@H]2C(=O)OC5)O)OCO4 | C22H22O8
reactant | hydrochloric acid | Cl | ClH
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl ether | 5 ml | C(C)OCC | C4H10O
product | 4'-demethylepipodophyllotoxin | COC=1C=C(C=C(C1O)OC)[C@@H]2C=3C=C4C(=CC3[C@H]([C@@H]5[C@@H]2C(=O)OC5)O)OCO4 | C21H20O8
